US03952024
Isobutyl (4-methyl-2-thiazolyl) carbinol was prepared by starting from 4-methyl-thiazole and substituting the hydrogen atom in the 2-position by lithium by reaction with butyl-lithium. The resulting metal-organic compound was reacted with isovaleraldehyde [cf. J.A.C.S. 74, 6260 (1952)]. The resulting product had a b.p. of 94°C./0.1 mm. Hg.

reactant | 4-methyl-thiazole | CC=1N=CSC1 | C4H5NS
reactant | lithium | [Li] | Li
reactant | butyl-lithium | C(CCC)[Li]
reactant | isovaleraldehyde | C(CC(C)C)=O | C5H10O
product | Isobutyl (4-methyl-2-thiazolyl) carbinol | C(C(C)C)C(O)C=1SC=C(N1)C | C9H15NOS
